US05576324
5-(2-Butenyloxy)-3-isopropyl-8-methylcarbostyril
3-Isopropyl-5-hydroxy-8-methyl-1,2-dihydrocarbostyril (2.2 g, 10.13 mmol) was dissolved in dimethylformamide (25 ml). Crotylbromide (1.22ml, 12.11 mmol) and potassium carbonate (2.8 g, 20.26 mmol) were added to the solution, and the mixture was stirred at 70° C. for 2.5 hours. After the mixture was cooled, chloroform-water was added for phase separation. The organic phase was washed with water, and saturated aqueous sodium chloride solution in this order, and dried. The solvent was distilled off under reduced pressure, and the residue was recrystallized from chloroform-n-hexane. As a result, 1.88 g of the title compound was obtained as colorless needles (68%).

reactant | 3-Isopropyl-5-hydroxy-8-methyl-1,2-dihydrocarbostyril | 10.13 mmol, 2.2 g | C(C)(C)C=1C(NC2=C(C=CC(=C2C1)O)C)=O | C13H15NO2
reactant | Crotylbromide | 12.11 mmol, 1.22ml | C(C=CC)Br | C4H7Br
reactant | potassium carbonate | 20.26 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform water | C(Cl)(Cl)Cl.O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-(2-Butenyloxy)-3-isopropyl-8-methylcarbostyril | 1.88 g | C(C=CC)OC1=C2C=C(C(NC2=C(C=C1)C)=O)C(C)C | C17H21NO2
